US07470680B2
2-(1-(tert-butoxycarbonyl)piperidin-4-ylamino)-6-fluorobenzoic acid.
2-Amino-6-fluorobenzoic acid (2.01 g, 12.93 mmol) and tert-butyl 4-oxopiperidine-1-carboxylate (5.15 g, 25.9 mmol) were combined and dissolved in methanol (50 mL). Sodium cyanotrihydroborate (1.625 g, 25.9 mmol) was added in one portion at room temperature. Reaction stirred at room temperature for 1 hour. The solvent was removed in vacuo. The resulting foam was partitioned between dichloromethane (170 mL) and 1N sodium hydroxide (65 mL). Layers were separated. The dichloromethane layer was extracted with water (2×65 mL). The aqueous layers were combined and acidified with citric acid to pH around 3. The aqueous layer was extracted with ethyl acetate (3×100 mL). The ethyl acetate layers were combined, dried (Na2SO4), filtered and concentrated to dryness. Title compound was obtained as off-white solid in 92% yield. 1H NMR (400 MHz, MeOD) δ ppm 7.18-7.28 (m, 1 H) 6.57 (d, J=8.56 Hz, 1 H) 6.27 (dd, J=11.58, 8.06 Hz, 1 H) 3.83-3.95 (m, 2 H) 3.56-3.67 (m, 1 H) 3.00-3.15 (m, 2 H) 1.93-2.04 (m, 2 H) 1.44 (s, 9 H) 1.31-1.43 (m, 2 H).

reactant | 2-Amino-6-fluorobenzoic acid | 12.93 mmol, 2.01 g | NC1=C(C(=O)O)C(=CC=C1)F | C7H6FNO2
reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 25.9 mmol, 5.15 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | Sodium cyanotrihydroborate | 25.9 mmol, 1.625 g | [B-]C#N.[Na+]
solvent | methanol | 50 mL | CO | CH4O
product | 2-(1-(tert-butoxycarbonyl)piperidin-4-ylamino)-6-fluorobenzoic acid | 92% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=C(C(=O)O)C(=CC=C1)F | C17H23FN2O4
